US04849401
56 g of KOH, 56 ml of water, 10 g of 18-crown-6 and 5 g of KI were warmed to 75° C. with 200 ml of toluene with exclusion of air. A mixture of 100 g of 2-methylbenzyl chloride and 100 g of methyl ethyl ketone was added dropwise over 30 minutes with vigorous stirring, and the mixture was stirred at 85° C. for 11 hours. The phases were then separated, and the organic layer was washed by shaking with water and distilled through a short packed column. After removing the solvent and the preliminary fraction, 29 g of 3-(2-methylbenzyl)-butanone were obtained at 54°-55° C./0.07 mbar. 25 g of this compound was stirred with 3 g of NaBH4 in 100 ml of ethanol, initially for 2 hours at 25° C., then for a further 2 hours at the reflux temperature. After the reducing agent and solvent had been removed, the reaction product was distilled through a short Vigreux column. 15.5 g of 3-methyl-4-(2-methylphenyl)-butan-2-ol were obtained from 64°-67° C./0.07 mbar.

reactant | KOH | 56 g | [OH-].[K+]
reactant | water | 56 ml | O | H2O
reactant | 18-crown-6 | 10 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-methylbenzyl chloride | 100 g | CC1=C(CCl)C=CC=C1 | C8H9Cl
reactant | methyl ethyl ketone | 100 g | C(C)C(=O)C | C4H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-methylbenzyl)-butanone | 29 g | CC1=C(CC(C(C)=O)C)C=CC=C1 | C12H16O
